* source CAD
R_R34         V- N102589 R_R34 1k TC=0,0 
.model        R_R34 RES R=1 DEV=5% TC1=0 TC2=0
R_R31         V- N103373 R_R31 1k TC=0,0 
.model        R_R31 RES R=1 DEV=5% TC1=0 TC2=0
R_R32         N102343 V+ R_R32 1k TC=0,0 
.model        R_R32 RES R=1 DEV=5% TC1=0 TC2=0
X_U9B         OUT_B N102841 V+ V- N102841 LT1359/LT
R_R5         N102841 N102447 R_R5 8.2k TC=0,0 
.model        R_R5 RES R=1 DEV=2% TC1=0 TC2=0
R_R6         N102447 DREPT R_R6 5.1k TC=0,0 
.model        R_R6 RES R=1 DEV=5% TC1=0 TC2=0
V_V1         V+ 0 15V
R_R17         0 N1026190 R_R17 10k TC=0,0 
.model        R_R17 RES R=1 DEV=5% TC1=0 TC2=0
R_R8         N102971 N102981 R_R8 3.1k TC=0,0 
.model        R_R8 RES R=1 DEV=5% TC1=0 TC2=0
D_D8         DREPT N102589 D1N3604 
R_R29         N102995 V+ R_R29 1k TC=0,0 
.model        R_R29 RES R=1 DEV=5% TC1=0 TC2=0
R_R30         0 OUT_TRI R_R30 25 TC=0,0 
.model        R_R30 RES R=1 DEV=1% TC1=0 TC2=0
X_U8B         N1026190 N102447 V+ V- DREPT LT1359/LT
R_R1         N101971 N101793 R_R1 2.6k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
X_U11B         0 N102971 V+ V- N103139 LT1359/LT
X_U7B         N101839 N102217 V+ V- OUT_B LT1359/LT
V_V2         V- 0 -15V
C_C2         0 DREPT C_C2 10n  TC=0,0 
.model        C_C2 CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
X_U6A         N102163 N101793 V+ V- OUT_INT LT1359/LT
C_C1         N101793 OUT_INT C_C1 10n  TC=0,0 
.model        C_C1 CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
R_R15         0 N102217 R_R15 5.1k TC=0,0 
.model        R_R15 RES R=1 DEV=5% TC1=0 TC2=0
D_D7         N102343 DREPT D1N3604 
R_R28         0 N102091 R_R28 18k TC=0,0 
.model        R_R28 RES R=1 DEV=5% TC1=0 TC2=0
R_R3         OUT_INT N101839 R_R3 10k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
X_P2         N102981 N102981 N103139 POT PARAMS: SET={a} VALUE=1.5k
R_R7         N103225 N102971 R_R7 10k TC=0,0 
.model        R_R7 RES R=1 DEV=5% TC1=0 TC2=0
R_R16         0 N102163 R_R16 5.1k TC=0,0 
.model        R_R16 RES R=1 DEV=5% TC1=0 TC2=0
R_R4         N101839 OUT_B R_R4 10k TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
R_R33         0 OUT_DREPT R_R33 25 TC=0,0 
.model        R_R33 RES R=1 DEV=1% TC1=0 TC2=0
X_U10B         OUT_INT N103225 V+ V- N103225 LT1359/LT
X_P1         N102091 N101971 OUT_B POT PARAMS: SET={set} VALUE=10k
Q_Q14         V+ N102995 OUT_TRI Q2N2222A/ZTX 
Q_Q15         V- N103373 OUT_TRI TIP32
Q_Q16         V- N102589 OUT_DREPT TIP32
Q_Q17         V+ N102343 OUT_DREPT Q2N2222A/ZTX 
D_D11         N102995 N103139 D1N4148 
D_D12         N103139 N103373 D1N4148 
.IC         V(N101793 )=0
.PARAM  a=0 set=0
