* source PROIECT CAD
X_U6A         N64106 N63598 V+ V- OUT_INT LT1359/LT
Q_Q6         V- N65094 OUT_DREPT MJE2901K
R_R27         V- N65044 R_R27 1k TC=0,0 
.model        R_R27 RES R=1 DEV=5% TC1=0 TC2=0
R_R9         N64324 V+ R_R9 1k TC=0,0 
.model        R_R9 RES R=1 DEV=5% TC1=0 TC2=0
D_D4         DREPT N65094 D1N3604 
Q_Q13         V- N64702 OUT_TRIUNGHI Q2N5193
V_V1         V+ 0 15V
R_R7         N65408 N65188 R_R7 8.45k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         OUT_INT N63692 R_R3 2k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
Q_Q11         V+ N63816 N63968 Q2N5190
X_P1         OUT_B N63936 N63936 POT PARAMS: SET={set} VALUE=5.35k
R_R16         0 N64106 R_R16 5.1k TC=0,0 
.model        R_R16 RES R=1 DEV=5% TC1=0 TC2=0
R_R18         0 DREPT R_R18 450 TC=0,0 
.model        R_R18 RES R=1 DEV=5% TC1=0 TC2=0
D_D12         N64954 N65044 D1N3604 
R_R11         V- N65094 R_R11 1k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
X_P2         N65188 N65198 N65198 POT PARAMS: SET={a} VALUE=4.2k
R_R25         N63816 V+ R_R25 1k TC=0,0 
.model        R_R25 RES R=1 DEV=5% TC1=0 TC2=0
R_R6         N64380 DREPT R_R6 10k TC=0,0 
.model        R_R6 RES R=1 DEV=5% TC1=0 TC2=0
Q_Q14         V- N65044 N64702 Q2N5193
R_R1         N63936 N63598 R_R1 2.25k TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
R_R17         0 N645800 R_R17 3k TC=0,0 
.model        R_R17 RES R=1 DEV=5% TC1=0 TC2=0
Q_Q12         V+ N63968 OUT_TRIUNGHI Q2N5190
D_D2         N64324 DREPT D1N3604 
X_U10B         OUT_INT N65408 V+ V- N65408 LT1359/LT
X_U9B         OUT_B N64864 V+ V- N64864 LT1359/LT
X_U7B         N63692 N64136 V+ V- OUT_B LT1359/LT
R_R10         0 OUT_DREPT R_R10 5.1 TC=0,0 
.model        R_R10 RES R=1 DEV=5% TC1=0 TC2=0
X_U8B         N645800 N64380 V+ V- DREPT LT1359/LT
R_R15         0 N64136 R_R15 5.1k TC=0,0 
.model        R_R15 RES R=1 DEV=5% TC1=0 TC2=0
D_D14         TRIUNGHI N64954 D1N3604 
C_C2         0 DREPT C_C2 10n  TC=0,0 
.model        C_C2 CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
C_C1         N63598 OUT_INT C_C1 10n  TC=0,0 
.model        C_C1 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
D_D11         N64254 TRIUNGHI D1N3604 
R_R5         N64864 N64380 R_R5 12.2k TC=0,0 
.model        R_R5 RES R=1 DEV=2% TC1=0 TC2=0
V_V2         V- 0 -15V
X_U11B         0 N65188 V+ V- TRIUNGHI LT1359/LT
Q_Q7         V+ N64324 OUT_DREPT BD220
R_R4         N63692 OUT_B R_R4 2k TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
R_R8         N65198 TRIUNGHI R_R8 2.5k TC=0,0 
.model        R_R8 RES R=1 DEV=5% TC1=0 TC2=0
R_R26         0 OUT_TRIUNGHI R_R26 1k TC=0,0 
.model        R_R26 RES R=1 DEV=5% TC1=0 TC2=0
D_D10         N63816 N64254 D1N3604 
.IC         V(DREPT )=0
.IC         V(N63598 )=0
.PARAM  a=1 set=0
